US04997967
305 g (1 mol) of 4-phenoxy-2,6-diisopropylaniline hydrochloride, 97 g (1.2 mol) of sodium thiocyanate, 10 ml of water and 10 ml of concentrated hydrochloric acid are suspended in 800 ml of o-xylene. The mixture is heated to 90° C. over 6 hours, during which time 2 ml of concentrated hydrochloric acid are added after 3 hours and then after each further hour. Thereafter the reaction mixture is cooled to room temperature and the product is isolated by filtration, washed with water and dried, giving 315 g (96% of theory) of N-(4-phenoxy-2,6-diisopropylphenyl)thiourea in the form of pale grey crystals which melt at 219°-221° C.

reactant | 4-phenoxy-2,6-diisopropylaniline hydrochloride | 1 mol, 305 g | Cl.O(C1=CC=CC=C1)C1=CC(=C(N)C(=C1)C(C)C)C(C)C
reactant | sodium thiocyanate | 1.2 mol, 97 g | [S-]C#N.[Na+]
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | o-xylene | 800 ml | CC=1C=CC=CC1C | C8H10
product | N-(4-phenoxy-2,6-diisopropylphenyl)thiourea | 315 g, 96% | O(C1=CC=CC=C1)C1=CC(=C(C(=C1)C(C)C)NC(=S)N)C(C)C | C19H24N2OS
